US04075207
Preparation of 5,6-Dichlorothiazolo(4,5-b)pyrazine
To 100 ml. of triethyl orthoformate was added 9.8 g (0.05 mole) of 2-amino-5,6-dichloro-3-mercaptopyrazine. The whole was heated to boiling under reflux for 20 hours, cooled to room temperature and filtered, washed with petroleum-ether and dried to give 7.7 g. (75% yield) of the desired product, m.p. 124°-5° C.

reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | 2-amino-5,6-dichloro-3-mercaptopyrazine | 0.05 mole, 9.8 g | NC1=NC(=C(N=C1S)Cl)Cl | C4H3Cl2N3S
product | 5,6-Dichlorothiazolo(4,5-b)pyrazine | 75% yield | ClC1=C(N=C2C(=N1)N=CS2)Cl | C5HCl2N3S
